US04442115
Potassium 2-(4-methoxybenzyl)-2H-tetrazole-5-carboxylate (2.45 g) was dissolved in a minimum quantity of water and acidified to pH 1 by treatment with concentrated hydrochloric acid. The mixture was stirred for 3 hours, and then the solid was filtered off and washed with water to give 2-(4-methoxybenzyl)-2H-tetrazole-5-carboxylic acid (1.20 g), m.p. 146°-147° C. (with decomposition).

reactant | Potassium 2-(4-methoxybenzyl)-2H-tetrazole-5-carboxylate | 2.45 g | COC1=CC=C(CN2N=C(N=N2)C(=O)[O-])C=C1.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-(4-methoxybenzyl)-2H-tetrazole-5-carboxylic acid | 1.20 g | COC1=CC=C(CN2N=C(N=N2)C(=O)O)C=C1 | C10H10N4O3
